US05143923
Z-N-[4-(1-(2-Methoxyphenyl)-4-piperazinyl)-2-butenyl]-1,2-benzisothiazole-3-carboxamide dihydrochloride
A mixture of 1,2-benzisothiazole-3-carboxylic acid chloride (1.77 g) and Z-1-(2-methoxyphenyl)-4-(4-amino-2-butenyl)piperazine (2.34 g) in dichloromethane (100 ml) was stirred while triethylamine (2.51 ml) was added dropwise. Stirring was continued overnight. After 24 hr, the reaction mixture was diluted with water and saturated aqueous sodium carbonate solution and extracted with dichloromethane. The organic phase was washed with water, dried over anhydrous magnesium sulfate, filtered, and the filtrate was concentrated in vacuo. The residue was taken up in dichloromethane/ether and hydrogen chloride in ether was added. The precipitate was recrystallized from methanol/dichloromethane/ether to provide 2.31 g (51.7%) of product, mp 184-187.

reactant | 1,2-benzisothiazole-3-carboxylic acid chloride | 1.77 g | S1N=C(C2=C1C=CC=C2)C(=O)Cl | C8H4ClNOS
reactant | Z-1-(2-methoxyphenyl)-4-(4-amino-2-butenyl)piperazine | 2.34 g | COC1=C(C=CC=C1)N1CCN(CC1)C\C=C/CN | C15H23N3O
reactant | triethylamine | 2.51 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
solvent | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
product | Z-N-[4-(1-(2-Methoxyphenyl)-4-piperazinyl)-2-butenyl]-1,2-benzisothiazole-3-carboxamide dihydrochloride | 2.31 g, 51.7% | Cl.Cl.COC1=C(C=CC=C1)N1CCN(CC1)C\C=C/CNC(=O)C1=NSC2=C1C=CC=C2 | InChI=1S/C23H26N4O2S.2ClH/c1-29-20-10-4-3-9-19(20)27-16-14-26(15-17-27)13-7-6-12-24-23(28)22-18-8-2-5-11-21(18)30-25-22;;/h2-11H,12-17H2,1H3,(H,24,28);2*1H/b7-6-;;
